US04675323
2-(4-Chlorophenyl)-imidazo[1,2-a]quinoline
17.7 g (0.123 mole) of 2-aminoquinoline, 28.7 g (1 equivalent of α-bromo-p-chloroacetophenone and 20.6 g (2 equivalents) of sodium bicarbonate are mixed in 180 ml of n-propanol and heated under reflux for 20 hours. The precipitate obtained is filtered off, washed with ethanol and water and dried. A white solid is obtained which is recrystallized from nitromethane.

reactant | 2-aminoquinoline | 0.123 mole, 17.7 g | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
reactant | α-bromo-p-chloroacetophenone | 1 equivalent | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | sodium bicarbonate | 20.6 g, 2 equivalents | C([O-])(O)=O.[Na+]
solvent | n-propanol | 180 ml | C(CC)O | C3H8O
product | 2-(4-Chlorophenyl)-imidazo[1,2-a]quinoline | ClC1=CC=C(C=C1)C=1N=C2N(C3=CC=CC=C3C=C2)C1 | C17H11ClN2
